US07517994B2
Step E: Preparation of methyl 2-(4-bromo-2-fluorophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylate:
To a solution of 4-bromo-2-fluorobenzenamine (0.058 g, 0.31 mmol) in THF (2 mL) at −78° C. under N2 was added lithium bis(trimethylsilyl)amide (0.56 mL, 0.56 mmol, 1 M solution in hexanes) dropwise. The reaction mixture was stirred for one hour at −78° C. Methyl 2-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylate (0.060 g, 0.28 mmol) was then added dropwise as a solution in THF (1 mL) and the reaction mixture was stirred for 25 minutes at −78° C. The reaction mixture was quenched by the addition of H2O and the pH was adjusted with 0.1M HCl and then diluted with EtOAc and satutrated NaCl and the layers separated. The aqueous layer was back extracted with EtOAc (1×). The combined EtOAc layers were dried (Na2SO4) and concentrated under reduced pressure. Purification by flash column chromatography (methylene chloride/EtOAc, 20:1) gave 0.086 g (84%) pure desired product as a white crystalline solid. MS ESI (+) m/z 371, 373 (M+, Br pattern) detected; 1H NMR (400 MHz, CDCl3) δ 9.57 (s, 1H), 7.79 (s, 1H), 7.32 (d, 1H), 7.18 (d, 1H), 6.58 (t, 1H), 3.85 (s, 3H), 3.29 (s, 3H), 2.14 (s, 3H).

reactant | 4-bromo-2-fluorobenzenamine | 0.31 mmol, 0.058 g | BrC1=CC(=C(C=C1)N)F | C6H5BrFN
reactant | lithium bis(trimethylsilyl)amide | 0.56 mmol, 1 M, 0.56 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | Methyl 2-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 0.28 mmol, 0.060 g | ClC=1N(C(C(=CC1C(=O)OC)C)=O)C | C9H10ClNO3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | methyl 2-(4-bromo-2-fluorophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 0.086 g, 84% | BrC1=CC(=C(C=C1)NC=1N(C(C(=CC1C(=O)OC)C)=O)C)F | C15H14BrFN2O3
